US09108999B2
Preparation of intermediate chiral 5-bromo-1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-hydroxymethyl-3-methyl-tetrahydro-furan-2-yl)-1H-pyrimidine-2,4-dione
In a 2 mL microwave vial, chiral 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione (70 mg, 0.252 mmol), and NBS (67.2 mg, 0.377 mmol), were dissolved in DMF (0.7 ml). The mixture was capped and heated under microwave irradiation at 80° C. for 10 min. LC/MS analysis indicated the starting material was completely consumed and the formation of the desired production as the only major product. The solvent was evaporated, and the residue was purified by a 2×4 g silica gel cartridge, eluted with 0-70% EtOAc in hexanes to provide the title compound as a white solid (94 mg, 90%)

reactant | 1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-(hydroxymethyl)-3-methyl-tetrahydrofuran-2-yl)pyrimidine-2,4(1H,3H)-dione | 0.252 mmol, 70 mg | F[C@]1([C@@H](O[C@@]([C@H]1O)(CO)F)N1C(NC(C=C1)=O)=O)C | C10H12F2N2O5
reactant | NBS | 0.377 mmol, 67.2 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1-((2R,3R,4S,5S)-3,5-difluoro-4-hydroxy-5-hydroxymethyl-3-methyl-tetrahydro-furan-2-yl)-1H-pyrimidine-2,4-dione | 94 mg, 90% | BrC=1C(NC(N(C1)[C@@H]1O[C@@]([C@H]([C@@]1(C)F)O)(CO)F)=O)=O | C10H11BrF2N2O5
